US08486946B2
Step 3. Preparation of ethyl 5-fluoro-4-oxo-1,4-dihydrocinnoline-3-carboxylate
A solution of tri-n-butylphosphine (8.6 g, 0.042 mol, 1.1 equiv) in anhydrous tetrahydrofuran (50 mL) was added to a tetrahydrofuran solution (150 mL) of ethyl 2-diazo-3-(2,6-difluorophenyl)-3-oxopropanoate (9.6 g, 0.038 mol). After stirring for 30 minutes at ambient temperature, the mixture was diluted with tetrahydrofuran (500 mL) and refluxed for 8 hours. The mixture was cooled to ambient temperature, concentrated in vacuo and purified by silica gel gradient chromatography (40:1; chloroform:methanol), providing the titled compound: 1H NMR (400 MHz, DMSO-d6) δ 13.85 (1H, br s), 7.78-7.75 (1H, m), 7.50-7.40 (1H, m), 7.27-7.14 (1H, m), 4.30 (2H, t, J=7.1 Hz), 1.30 (3H, t, J=7.1 Hz) ppm; low resolution mass spectrometry (APCI) m/z 237.0 [(M+H)+; calculated for C11H9FN2O3: 237.1].

reactant | tri-n-butylphosphine | 0.042 mol, 8.6 g, 1.1 equiv | C(CCC)P(CCCC)CCCC | C12H27P
reactant | ethyl 2-diazo-3-(2,6-difluorophenyl)-3-oxopropanoate | 0.038 mol, 9.6 g | [N+](=[N-])=C(C(=O)OCC)C(=O)C1=C(C=CC=C1F)F | C11H8F2N2O3
solvent | tetrahydrofuran | 50 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 500 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 150 mL | O1CCCC1 | C4H8O
product | ethyl 5-fluoro-4-oxo-1,4-dihydrocinnoline-3-carboxylate | FC1=C2C(C(=NNC2=CC=C1)C(=O)OCC)=O | C11H9FN2O3
